* C:\Users\marce\Documents\GitHub\SRAD-Avionics\Pyro_Controller\sim\Simulation_Draft1.asc
M1 N001 N003 0 0 NMOS
R1 N003 N002 1000
R2 0 N002 3300
R3 Sensor N001 100000
R4 0 Sensor 27000
R§Load Fet N001 2
V1 N002 0 PULSE(-1 5 1m 1.5m 1m 2m 6m 2)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\marce\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20m
.backanno
.end
